US08580841B2
Step A: Preparation of Ethyl 2-(7-(4-(1,2,3-Thiadiazol-4-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
In a 4 mL vial were placed ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (64.8 mg, 0.250 mmol), cesium carbonate (81 mg, 0.250 mmol), and 4-(4-(bromomethyl)phenyl)-1,2,3-thiadiazole (63.8 mg, 0.250 mmol). DMA (1 mL) was added and the reaction was stirred at room temperature overnight. The solid was removed by filtration and rinsed with EtOAc. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound (42.7 mg). LCMS m/z=434.2 [M+H]+.

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.250 mmol, 64.8 mg | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | cesium carbonate | 0.250 mmol, 81 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(4-(bromomethyl)phenyl)-1,2,3-thiadiazole | 0.250 mmol, 63.8 mg | BrCC1=CC=C(C=C1)C=1N=NSC1 | C9H7BrN2S
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-(7-(4-(1,2,3-Thiadiazol-4-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 42.7 mg | S1N=NC(=C1)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1 | C24H23N3O3S
